US04050921
2-(4-Cyanophenylmethylsulfinyl)pyridine N-oxide
The procedure employed is identical to that of Example 68 using 3.6 gm (0.015 mol) 2-(4-cyanophenylmethylthio)pyridine N-oxide in 50 ml of chloroform with 3 gm (0.015 mol) MCPBA in 50 ml chloroform.

reactant | 2-(4-cyanophenylmethylthio)pyridine N-oxide | 0.015 mol, 3.6 gm | C(#N)C1=CC=C(C=C1)CSC1=[N+](C=CC=C1)[O-] | C13H10N2OS
reactant | MCPBA | 0.015 mol, 3 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Cyanophenylmethylsulfinyl)pyridine N-oxide | C(#N)C1=CC=C(C=C1)CS(=O)C1=[N+](C=CC=C1)[O-] | C13H10N2O2S
